US07396958B2
N-[4-chloro-2-(2-chlorobenzoyl)phenyl]-3,4-dimethoxy-N-(1H-tetrazol-5-ylmethyl)benzenesulfonamide
To 1 g of N-[4-chloro-2-(2-chlorobenzoyl)phenyl]-N-(cyanomethyl)-3,4-dimethoxybenzenesulfonamide dissolved in 20 ml of THF are successively added 0.3 g of dibutyltin oxide and 2.6 ml of azidotrimethylsilane, and the mixture is refluxed for 18 hours. The reaction medium is taken up in ethyl acetate and washed with water. The organic phase is dried over anhydrous sodium sulfate and concentrated. The residue is purified by filtration on silica H, eluting with dichloromethane, to give 0.95 g of the expected product.

reactant | N-[4-chloro-2-(2-chlorobenzoyl)phenyl]-N-(cyanomethyl)-3,4-dimethoxybenzenesulfonamide | 1 g | ClC1=CC(=C(C=C1)N(S(=O)(=O)C1=CC(=C(C=C1)OC)OC)CC#N)C(C1=C(C=CC=C1)Cl)=O | C23H18Cl2N2O5S
reactant | dibutyltin oxide | 0.3 g | C(CCC)[Sn](CCCC)=O
reactant | azidotrimethylsilane | 2.6 ml | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-chloro-2-(2-chlorobenzoyl)phenyl]-3,4-dimethoxy-N-(1H-tetrazol-5-ylmethyl)benzenesulfonamide | 0.95 g | ClC1=CC(=C(C=C1)N(S(=O)(=O)C1=CC(=C(C=C1)OC)OC)CC1=NN=NN1)C(C1=C(C=CC=C1)Cl)=O | C23H19Cl2N5O5S
